US08212045B2
(2S,3S)-1,4-dioxaspiro[4.5]decane-2,3-diyldimethanol (65 g, 321.4 mmol) was dissolved in DMF (500 mL) and cooled in an ice bath. 60% Sodium hydride (15.43 g, 385.7 mmol) was added slowly and the reaction was stirred for 30 minutes in an ice bath then warmed to ambient temperature for 2 hours. Iodomethane (20.05 ml, 321.4 mmol) was added and the reaction was stirred at ambient temperature overnight. The majority of the DMF was removed on a rotary evaporator, and the residue was partitioned between aqueous NH4Cl and EtOAc. The organic layer was washed with brine, dried over sodium sulfate, filtered and concentrated. The residue was purified over 1 Kg of SiO2 (20 to 40% EtOAc in hexanes) to afford ((2S,3S)-3-(methoxymethyl)-1,4-dioxaspiro[4.5]decan-2-yl)methanol (31.3 g, 144.7 mmol, 45.03% yield) as an oil.

reactant | (2S,3S)-1,4-dioxaspiro[4.5]decane-2,3-diyldimethanol | 321.4 mmol, 65 g | O1[C@H]([C@@H](OC12CCCCC2)CO)CO | C10H18O4
reactant | Sodium hydride | 385.7 mmol, 15.43 g | [H-].[Na+]
reactant | Iodomethane | 321.4 mmol, 20.05 ml | IC | CH3I
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | ((2S,3S)-3-(methoxymethyl)-1,4-dioxaspiro[4.5]decan-2-yl)methanol | 144.7 mmol, 31.3 g, 45.03% yield | COC[C@H]1[C@@H](OC2(O1)CCCCC2)CO | C11H20O4
